US08871782B2
A stirred solution of tert-butyl 4-{[2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate (9.77 g, 20.8 mmol) in chloroform (175 mL) at room temperature was treated with mCPBA (55% pure, 6.54 g, 20.8 mmol). After 45 minutes, concentrated ammonium hydroxide (175 mL) was added, followed by p-toluenesulfonyl chloride (3.97 g, 20.8 mmol). The mixture was stirred for 62 hours, then the layers were separated and the aqueous layer was extracted with chloroform. The combined organic layers were washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude product was purified by flash chromatography (silica gel, gradient elution with 1.5-12.5% CMA in chloroform) followed by recrystallization from acetonitrile to afford 6.3 g of tert-butyl 4-{[4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate as tan crystals, mp 173-175° C.

reactant | tert-butyl 4-{[2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate | 20.8 mmol, 9.77 g | COCCC=1N(C2=C(C=NC=3C=C(C=CC23)OC2CCN(CC2)C(=O)OC(C)(C)C)N1)CCC | C26H36N4O4
reactant | mCPBA | 20.8 mmol, 6.54 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 175 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 20.8 mmol, 3.97 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 175 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-{[4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate | 6.3 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCC)CCOC)OC2CCN(CC2)C(=O)OC(C)(C)C | C26H37N5O4
